US05036074
starting from 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-butanone and methoxymethyltriphenylphosphonium chloride there is obtained 3-(2,4-dichloro-β-ethyl-α-methoxymethylenephenethyl)-pyridine as an isomer mixture in the form of a yellow oil;

reactant | 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-butanone | ClC1=C(C=CC(=C1)Cl)C(C(=O)C=1C=NC=CC1)CC | C15H13Cl2NO
reactant | methoxymethyltriphenylphosphonium chloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(2,4-dichloro-β-ethyl-α-methoxymethylenephenethyl)-pyridine | ClC1=C(C(C(=COC)C=2C=NC=CC2)CC)C=CC(=C1)Cl | C17H17Cl2NO
